US08461185B2
Step B: 4′-methyl-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)biphenyl-3-carboxylic acid
To a solution of tert-butyl 4′-methyl-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)biphenyl-3-carboxylate (1.26 g, 3.34 mmol) in dichloromethane (12 mL) was added hydrogen chloride (4.0 M in dioxane; 4.17 mL, 16.7 mmol). The reaction mixture was stirred at ambient temperature. After 18 h, the mixture was concentrated. Dichloromethane was added and the suspension was filtered. The solid cake was washed with dihchloromethane and dried under reduced pressure gave the title compound (1.0 g). MS 322.2 (M+1).

reactant | tert-butyl 4′-methyl-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)biphenyl-3-carboxylate | 3.34 mmol, 1.26 g | CC1=CC=C(C=C1)C1=CC(=CC(=C1)C1=NOC2(CCC2)C1)C(=O)OC(C)(C)C | C24H27NO3
reactant | hydrogen chloride | 16.7 mmol, 4.0 M, 4.17 mL | Cl | ClH
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 4′-methyl-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)biphenyl-3-carboxylic acid | 1.0 g | CC1=CC=C(C=C1)C1=CC(=CC(=C1)C1=NOC2(CCC2)C1)C(=O)O | C20H19NO3
